US04256890
A solution of 3.6 g of bromine in 50 ml of carbon tetrachloride was added, while stirring under ice-cooling, to a solution of 4.0 g of 3,4,5,6,7,8-hexahydrocarbostyril-5-one in 50 ml of carbon tetrachloride. After allowing the mixture to stand for one minute, the precipitate formed was removed by decantation. The carbon tetrachloride layer was distilled at room temperature to remove the solvent (CCl4), and the resulting crystals were combined with the above precipitate followed by being washed with acetone to give quantitatively 8-(or 6-) bromo-3,4,5,6,7,8-hexahydrocarbostyril-5-one having a melting point of 126°-127° C. as yellow crystals. The thus obtained crystals were dissolved in 80 ml of carbon tetrachloride, and 3.0 g of 3-chloro-1,2-propanediol and 1.5 g of 2,4,6-tribromophenol were added to the solution. The mixture was heated at reflux for 2 hours and thereafter worked up in the same manner as described in Example 6 to give 2.1 g of 5-(2-hydroxy- 3-chloro)propoxy-3,4-dihydrocarbostyril having a melting point of 157°-158° C. as colorless amorphous crystals.

reactant | bromine | 3.6 g | BrBr | Br2
reactant | 3,4,5,6,7,8-hexahydrocarbostyril-5-one | 4.0 g | N1C(=O)CCC=2C(CCCC12)=O | C9H11NO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | bromo-3,4,5,6,7,8-hexahydrocarbostyril-5-one | BrC1C(NC=2CCCC(C2C1)=O)=O | C9H10BrNO2
